US06762318B2
Step 3: 3-{4-[4-(3,5-Bis-trifluoromethylphenyl)-2-(4-cyclohexylphenyl)-4-oxobutyryl]-benzoylamino}propionic acid.
3-{4-[4-(3,5-Bis-trifluoromethylphenyl)-2-(4-cyclohexylphenyl)-4-oxobutyryl]benzoylamino}propionic acid methyl ester (6.20 g, 9.38 mmol) was dissolved in THF (75 mL), HCl (6 N, 25 mL) was added and the mixture was heated to reflux, after 2 hours the heat was turned of and the mixture was stirred at room temperature for 16 hours. The mixture was evaporated to dryness to give the title compound. Yield: quantitative.

reactant | 3-{4-[4-(3,5-Bis-trifluoromethylphenyl)-2-(4-cyclohexylphenyl)-4-oxobutyryl]benzoylamino}propionic acid methyl ester | 9.38 mmol, 6.20 g | COC(CCNC(C1=CC=C(C=C1)C(C(CC(=O)C1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)C1=CC=C(C=C1)C1CCCCC1)=O)=O)=O | C35H33F6NO5
reactant | HCl | 6 N, 25 mL | Cl | ClH
solvent | THF | 75 mL | C1CCOC1 | C4H8O
product | 3-{4-[4-(3,5-Bis-trifluoromethylphenyl)-2-(4-cyclohexylphenyl)-4-oxobutyryl]-benzoylamino}propionic acid | Yield: quantitative | FC(C=1C=C(C=C(C1)C(F)(F)F)C(CC(C(=O)C1=CC=C(C(=O)NCCC(=O)O)C=C1)C1=CC=C(C=C1)C1CCCCC1)=O)(F)F | C34H31F6NO5
